US05728686
[1-(1-Hexyl-3-methylxanthin-7-yl)methyl]dimethylphosphine Oxide
The title substance was prepared from 26 g (0.1 mol) of 1-hexyl-3-methylxanthine sodium salt and chloromethyldimethylphosphine oxide analogously to Example 59 and crystallized from hexane.

reactant | 1-hexyl-3-methylxanthine sodium salt | 0.1 mol, 26 g | [Na].C(CCCCC)N1C(=O)N(C=2N=CNC2C1=O)C
reactant | chloromethyldimethylphosphine oxide | ClCP(C)(C)=O | C3H8ClOP
product | [1-(1-Hexyl-3-methylxanthin-7-yl)methyl]dimethylphosphine Oxide | C(CCCCC)N1C(=O)N(C=2N=CN(C2C1=O)CP(C)(C)=O)C | C15H25N4O3P
